US06906094B2
3-Amino-N-(3,4-difluoro-phenyl)-4-methoxy-benzamide (3.0 g, 10.8 mmol) was dissolved in 200 mL dichloromethane and added dropwise to a solution of CSI (1.15 mL, 12.9 mmol) in 50 mL of dichloromethane at 0° C. The resulting white suspension was stirred for 1 hour and then filtered to give 2.94 g of a chlorosulfonyl urea intermediate. This intermediate (1.4 g, 3.5 mmol) was added in portions to a solution of p-anisidine (0.43 g, 3.5 mmol) in 50 mL acetone with triethylamine (1.94 mL, 13.9 mmol). The resulting mixture was stirred for 16 hours at room temperature. The reaction mixture was concentrated in vacuo, and the residue was partitioned between ethyl acetate and 1 M HCl. The ethyl acetate layer was dried over magnesium sulfate, filtered, and concentrated to give a pale pink oily solid. Recrystallization from dichloromethane gave 0.55 g of pure benzamide, N-(3,4-difluorophenyl)-4-methoxy-3-[[[[[(4-methoxyphenyl)amino]-sulfonyl]amino]carbonyl]amino]-. Microanalysis: C22H20F2N4O6S; calculated: C=52.17; H=3.98; N=11.06. found: C=52.20; H=4.06; N=10.98. MS: M++1=507 Da.

reactant | p-anisidine | 3.5 mmol, 0.43 g | COC1=CC=C(C=C1)N | C7H9NO
reactant | triethylamine | 13.9 mmol, 1.94 mL | C(C)N(CC)CC | C6H15N
reactant | acetone | 50 mL | CC(=O)C | C3H6O
product | benzamide | 0.55 g | C(C1=CC=CC=C1)(=O)N | C7H7NO
